US06826033B2
To a solution of methyl 4-[[[4-[(2S)-2-[N-benzyl-N-[(2S)-2-hydroxy-3-phenoxypropyl]amino]-3-hydroxypropyl]-phenyl]amino]carbonyl]benzoate (93.6 mg) in methanol (2.0 ml) was added 1N sodium hydroxide solution (329 μl) and the solution was refluxed for 2.5 hours. After cooling to room temperature, the mixture was neutralized by the addition of 1N hydrochloric acid (329 μl). The solvent was removed by evaporation and the residual solid was suspended in water (2.0 ml). The solid was collected by filtration, washed with water, and dried under reduced pressure to give 4-[[[4-[(2S)-2-[N-benzyl-N-[(2S)-2-hydroxy-3-phenoxypropyl]amino]-3-hydroxypropyl]phenyl]amino]carbonyl]benzoic acid (80.2 mg) as a white solid.

reactant | methyl 4-[[[4-[(2S)-2-[N-benzyl-N-[(2S)-2-hydroxy-3-phenoxypropyl]amino]-3-hydroxypropyl]-phenyl]amino]carbonyl]benzoate | 93.6 mg | C(C1=CC=CC=C1)N(C[C@@H](COC1=CC=CC=C1)O)[C@@H](CC1=CC=C(C=C1)NC(=O)C1=CC=C(C(=O)OC)C=C1)CO | C34H36N2O6
reactant | sodium hydroxide | 1N, 329 μl | [OH-].[Na+]
reactant | hydrochloric acid | 1N, 329 μl | Cl | ClH
solvent | methanol | 2.0 ml | CO | CH4O
product | 4-[[[4-[(2S)-2-[N-benzyl-N-[(2S)-2-hydroxy-3-phenoxypropyl]amino]-3-hydroxypropyl]phenyl]amino]carbonyl]benzoic acid | 80.2 mg | C(C1=CC=CC=C1)N(C[C@@H](COC1=CC=CC=C1)O)[C@@H](CC1=CC=C(C=C1)NC(=O)C1=CC=C(C(=O)O)C=C1)CO | C33H34N2O6
